US05654326
A mixture of 600 mg (1.3 mmol) of [[3-(2-amino-1,2-dioxoethyl)-1-([1,1'-biphenyl]-2-ylmethyl)-2-ethyl-1H-indol-4-yl]oxy]acetic acid methyl ester in 8 mL of 1N NaOH and 20 mL of MeOH was heated to maintain reflux for 0.67 hours, concentrated at reduced pressure and the residue taken up in EtOAc/water. The aqueous layer was separated, made acidic with 1N HCl and extracted with EtOAc. The EtOAc solution was dried (MgSO4) and evaporated and the residue crystallized from MeOH to give 352 mg (59% yield) of [[3-(2-amino-1,2-dioxoethyl)-1-([1,1'-biphenyl]-2-ylmethyl)-2-ethyl-1H-indol-4-yl]oxy]acetic acid, mp, 211°-214° C.

reactant | [[3-(2-amino-1,2-dioxoethyl)-1-([1,1'-biphenyl]-2-ylmethyl)-2-ethyl-1H-indol-4-yl]oxy]acetic acid methyl ester | 1.3 mmol, 600 mg | COC(COC1=C2C(=C(N(C2=CC=C1)CC1=C(C=CC=C1)C1=CC=CC=C1)CC)C(C(=O)N)=O)=O | C28H26N2O5
solvent | NaOH | 1N, 8 mL | [OH-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | [[3-(2-amino-1,2-dioxoethyl)-1-([1,1'-biphenyl]-2-ylmethyl)-2-ethyl-1H-indol-4-yl]oxy]acetic acid | 352 mg, 59% yield | NC(C(=O)C1=C(N(C2=CC=CC(=C12)OCC(=O)O)CC1=C(C=CC=C1)C1=CC=CC=C1)CC)=O | C27H24N2O5
